US06051712
A solution of 560 mg (0.937 mmol) of tert-butyl (3RS,4SR,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-hydroxy-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate and 273 mg (1.031 mmol) of triphenylphosphine in 20 ml of dry tetrahydrofuran was treated while stirring with 160.2 μl (1.031 mmol) of diethyl azodicarboxylate and ten minutes later with a solution of 319.8 μl (1.405 mmol) of diphenylphosphoryl azide in 2 ml of tetrahydrofuran. This mixture was stirred at room temperature for 72 hours, then evaporated under reduced pressure at 40° C. and the residue was dried in a high vacuum. The yellow oily residue was chromatographed on silica gel using a 4:1 mixture of n-hexane and ethyl aceatate and the eluent. There were obtained 210 mg (36% of theory) of tert-butyl (3RS,4SR,5SR)-5-azido-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in the form of a colourless oil [MS: 623 (M+H+)]. As a further product there were obtained 180 mg (33.1% of theory) of tert-butyl (RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-3,6-dihydro-2H-pyridine-1-carboxylate, likewise as a colourless oil; MS: 580 (M+H)+.

reactant | tert-butyl (3RS,4SR,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-hydroxy-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 0.937 mmol, 560 mg | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1O)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C37H43NO6
reactant | triphenylphosphine | 1.031 mmol, 273 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.031 mmol, 160.2 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 1.405 mmol, 319.8 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | tert-butyl (3RS,4SR,5SR)-5-azido-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 210 mg, 36% | N(=[N+]=[N-])C1C(C(CN(C1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCCCOCC1=CC=CC=C1 | C37H42N4O5
